US06953801B2
(2S,5R)2-(4-Chloro-3-methoxy-phenylcarbamoyl)-5-(3,4-dimethoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (3.48 g, 7.09 mmol) was dissolved in dichloromethane (100 ml) and cooled to 0° C. in an ice bath. TFA (30 ml) was then added slowly to the stirring solution. The reaction was allowed to stir and warm to room temperature overnight. The reaction mixture was concentrated in vacuo. The pH of the resulting residue was adjusted to 8 with 1N NaOH and the product extracted into ethyl acetate. The extract was then washed with brine solution (2×100 ml), dried over anhydrous Na2SO4 and concentrated in vacuo. The crude oil was chromatographed to afford (2S,5R)5-(3,4-dimethoxy-phenyl)-pyrrolidine-2-carboxylic acid (4-chloro-3-methoxy-phenyl)-amide (2.77 g, 7.09 mmol, 100% yield). Analysis H1 NMR (400 MHz, CDCl3): 10.02 (1H, broad s), 7.59 (1H, broad s), 7.21 (1H, d), 7.03-6.82 (4H, m) 4.52-4.30 (2H, m), 3.90 (9H, m), 2.70-1.88 (5H, m). MS (LC-MS): Calculated for C20H23ClN2O4 390.13, found 391.16 (M+H)+.

reactant | (2S,5R)2-(4-Chloro-3-methoxy-phenylcarbamoyl)-5-(3,4-dimethoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.09 mmol, 3.48 g | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1C1=CC(=C(C=C1)OC)OC)C(NC1=CC(=C(C=C1)Cl)OC)=O | C25H31ClN2O6
reactant | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (2S,5R)5-(3,4-dimethoxy-phenyl)-pyrrolidine-2-carboxylic acid (4-chloro-3-methoxy-phenyl)-amide | 7.09 mmol, 2.77 g, 100% yield | ClC1=C(C=C(C=C1)NC(=O)[C@H]1N[C@H](CC1)C1=CC(=C(C=C1)OC)OC)OC | C20H23ClN2O4
